US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid{3-[(pyridin-2-ylmethyl)-sulfamoyl]-phenyl}-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-amino-N-pyridin-2-ylmethyl-benzenesulfonamide (example B.6) according to general procedure II. Yellow solid. MS (ISP) 601.1 [(M−H−]; mp 208° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-amino-N-pyridin-2-ylmethyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCC1=NC=CC=C1 | C12H13N3O2S
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid{3-[(pyridin-2-ylmethyl)-sulfamoyl]-phenyl}-amide | N1=C(C=CC=C1)CNS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C27H19F5N6O3S
